US08633200B2
5-Methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidine-6-carbaldehyde
To a stirred solution of (5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)methanol (100 mg, 0.304 mmol) in CH2Cl2 (8 mL) was added PCC (98 mg, 0.455 mmol). The reaction mixture was stirred at room temperature for 16 h. The solvent was evaporated and the residue was purified by silica gel chromatography to give the title compound (82 mg, 83%). 1H-NMR (500 MHz, CDCl3) δ ppm 2.52 (3H, s), 2.89 (3H, s), 6.98 (1H, s), 7.33-7.50 (5H, m), 7.60 (2H, d, J=7.9 Hz), 7.91 (2H, dd, J=8.1, 1.4 Hz), 9.80 (1H, s).

reactant | (5-methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidin-6-yl)methanol | 0.304 mmol, 100 mg | CC1=NC=2N(C(=C1CO)C1=CC=C(C=C1)C)N=C(C2)C2=CC=CC=C2 | C21H19N3O
reactant | PCC | 0.455 mmol, 98 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 5-Methyl-2-phenyl-7-p-tolylpyrazolo[1,5-a]pyrimidine-6-carbaldehyde | 82 mg, 83% | CC1=NC=2N(C(=C1C=O)C1=CC=C(C=C1)C)N=C(C2)C2=CC=CC=C2 | C21H17N3O
